US08633183B2
A-9) 3-Fluoro-5-iodo-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP1 starting from 200 mg (1.78 mmol) 3-fluoro-pyridin-2-ylamine and 401 mg (1.78 mmol) NIS. Yield after precipitation from the reaction mixture: 380 mg (90%).

reactant | 3-fluoro-pyridin-2-ylamine | 1.78 mmol, 200 mg | FC=1C(=NC=CC1)N | C5H5FN2
reactant | NIS | 1.78 mmol, 401 mg | C1CC(=O)N(C1=O)I | C4H4INO2
product | 3-Fluoro-5-iodo-pyridin-2-ylamine | FC=1C(=NC=C(C1)I)N | C5H4FIN2
